US05977116
Lithium aluminium hydride (1M, 34 ml) was added dropwise over 15 min to a 0° C. solution of 4-benzyl-1-[2-(2-fluorophenyl)propanoyl]piperazine (5.54 g, 0.017 mol) in THF (150 ml). The reaction mixture was stirred at 0° C. for 10 min and at room temperature for 24 h, cooled to 0° C. and quenched with water (1.6 ml), 4N NaOH (1.6 ml) and water (4.5 ml). The solid was filtered off through celite and the filtrate evaporated. Chromatography on silica gel with dichloromethane-methanol (99:1) yielded 4-benzyl-1-[2-(2-fluorophenyl)propyl]piperazine (3.17 g, 60%) as a colourless oil.

reactant | Lithium aluminium hydride | 1M, 34 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-benzyl-1-[2-(2-fluorophenyl)propanoyl]piperazine | 0.017 mol, 5.54 g | C(C1=CC=CC=C1)N1CCN(CC1)C(C(C)C1=C(C=CC=C1)F)=O | C20H23FN2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 4-benzyl-1-[2-(2-fluorophenyl)propyl]piperazine | 3.17 g, 60% | C(C1=CC=CC=C1)N1CCN(CC1)CC(C)C1=C(C=CC=C1)F | C20H25FN2
